US04187099
Preparation of Dimethyl 3-(3,4-Dichlorophenyl)-4,5-Isothiazoledicarboxylate.
5-(3,4-Dichlorophenyl)-1,3,4-oxathiazol-2-one (99.2 g, 0.4 mol) and dimethyl acetylenedicarboxylate (113.5 g, 0.8 mol) were heated in 240 ml of chlorobenzene at reflux for 47 hours. The product, from hot methanol, was recrystallized twice from hot methanol to give 97.8 g (0.283 mol, 70.7%) of white solid, m.p. 105°-107°.

reactant | 5-(3,4-Dichlorophenyl)-1,3,4-oxathiazol-2-one | 0.4 mol, 99.2 g | ClC=1C=C(C=CC1Cl)C1=NSC(O1)=O | C8H3Cl2NO2S
reactant | dimethyl acetylenedicarboxylate | 0.8 mol, 113.5 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | chlorobenzene | 240 ml | ClC1=CC=CC=C1 | C6H5Cl
product | Dimethyl 3-(3,4-Dichlorophenyl)-4,5-Isothiazoledicarboxylate | 0.283 mol, 97.8 g, 70.7% | ClC=1C=C(C=CC1Cl)C1=NSC(=C1C(=O)OC)C(=O)OC | C13H9Cl2NO4S
